US09120819B2
Stage D: 2-Amino-5-[(6-benzyloxy-1-methoxy-2-methylindolizin-3-yl)carbonyl]benzoic acid
A solution of 2.17 g (38.7 mmol) of potassium hydroxide in 6 ml of water is added to the suspension of 2.0 g (3.87 mmol) of 6-{[6-(benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-phenyl-4H-3,1-benzoxazin-4-one in 15 ml of N-methyl-2-pyrrolidone at ambient temperature. The mixture is brought to reflux for 4 hours. After cooling, the reaction medium is poured into an aqueous solution of hydrochloric acid (0.1 M). The precipitate formed is filtered and washed thoroughly with water and then with diisopropyl ether. 1.15 g (70%) of a yellow powder are obtained after drying under vacuum at 50° C.

reactant | potassium hydroxide | 38.7 mmol, 2.17 g | [OH-].[K+]
reactant | 6-{[6-(benzyloxy)-1-methoxy-2-methylindolizin-3-yl]carbonyl}-2-phenyl-4H-3,1-benzoxazin-4-one | 3.87 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=CN2C(=C(C(=C2C=C1)OC)C)C(=O)C=1C=CC2=C(C(OC(=N2)C2=CC=CC=C2)=O)C1 | C32H24N2O5
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | water | 6 ml | O | H2O
solvent | N-methyl-2-pyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Amino-5-[(6-benzyloxy-1-methoxy-2-methylindolizin-3-yl)carbonyl]benzoic acid | 1.15 g, 70% | NC1=C(C(=O)O)C=C(C=C1)C(=O)C1=C(C(=C2C=CC(=CN12)OCC1=CC=CC=C1)OC)C | C25H22N2O5
